US07718693B2
2-Chloro-4-fluoro-3-(trifluoromethyl)benzoic acid (0.560 g, 2.31 mmol), ammonium 1H-1,2,3-benzotriazol-1-olate (0.534 g, 3.47 mmol, prepared as described below), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.643 g, 3.47 mmol), and N-ethyl morpholine (0.594 ml, 4.62 mmol) were stirred together in dichloromethane (30 ml) for a total of 3 hrs. Saturated aqueous sodium hydrogen carbonate (30 ml) was added and the mixture was stirred for 15 minutes. The organic layer was separated using a hydrophobic frit and then washed with 2N aqueous hydrogen chloride (2×50 ml). Separation of the organic layer, again using a hydrophobic frit, and evaporation in vacuo gave 2-chloro-4-fluoro-3-(trifluoromethyl)benzamide (0.493 g) as an off-white solid which was used without further purification in the subsequent step.

reactant | 2-Chloro-4-fluoro-3-(trifluoromethyl)benzoic acid | 2.31 mmol, 0.560 g | ClC1=C(C(=O)O)C=CC(=C1C(F)(F)F)F | C8H3ClF4O2
reactant | ammonium 1H-1,2,3-benzotriazol-1-olate | 3.47 mmol, 0.534 g | N1(N=NC2=C1C=CC=C2)[O-].[NH4+]
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 3.47 mmol, 0.643 g | Cl.CN(CCCN=C=NCC)C
reactant | N-ethyl morpholine | 4.62 mmol, 0.594 ml | C(C)N1CCOCC1 | C6H13NO
reactant | sodium hydrogen carbonate | 30 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-chloro-4-fluoro-3-(trifluoromethyl)benzamide | 0.493 g | ClC1=C(C(=O)N)C=CC(=C1C(F)(F)F)F | C8H4ClF4NO
